US06124311
Preparation of [6-(n-Hexylsulfonoyl)-2-[4-(n-hexylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]-phenyl]methanone, Hydrochloride
[6-(n-Hexylsulfonoyl)-2-[4-(n-hexylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]-phenyl]methanone (3 g) was dissolved in 20 ml of ethyl acetate and hydrochloric acid-saturated diethyl ether was added. No precipitate formed. The reaction mixture was evaporated to a thick oil and was triturated several times with diethyl ether and dried in vacuo at room temperature to afford 1.64 g of the title compound as a white amorphous and hygroscopic powder.

reactant | [6-(n-Hexylsulfonoyl)-2-[4-(n-hexylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]-phenyl]methanone | 3 g | C(CCCCC)S(=O)(=O)C=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)S(=O)(=O)CCCCCC)C1 | C40H51NO6S3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | [6-(n-Hexylsulfonoyl)-2-[4-(n-hexylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]-phenyl]methanone, Hydrochloride | 1.64 g | Cl.C(CCCCC)S(=O)(=O)C=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)S(=O)(=O)CCCCCC)C1 | InChI=1S/C40H51NO6S3.ClH/c1-3-5-7-12-28-49(43,44)34-20-16-32(17-21-34)40-38(36-23-22-35(30-37(36)48-40)50(45,46)29-13-8-6-4-2)39(42)31-14-18-33(19-15-31)47-27-26-41-24-10-9-11-25-41;/h14-23,30H,3-13,24-29H2,1-2H3;1H
